US07642264B2
4-[4-(3-Ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[2,3′]bipyridinyl-6′-ylamine
The title compound was prepared from 2-(2-chloro-pyridin-4-yl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example E.33) (0.224 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.155 g, 61%). MS (ISP) 506.1 [(M+H)+]; mp 222° C.

reactant | 2-(2-chloro-pyridin-4-yl)-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 0.5 mmol, 0.224 g | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C19H12ClF6N3O
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.65 mmol, 0.14 g | NC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C11H17BN2O2
product | 4-[4-(3-Ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[2,3′]bipyridinyl-6′-ylamine | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC(=NC(=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=NC(=CC1)N | C24H17F6N5O
